US07767854B2
To a mixture of 1.9 M sodium hexamethyldisilazane solution (in tetrahydrofuran, 2.1 ml) and anhydrous tetrahydrofuran (10 ml) was added n-propyltriphenyl-phosphonium bromide (1.52 g) at room temperature, and the mixture was stirred for 30 minutes. The reaction mixture was cooled to −78° C., and then a solution of t-butyl cis-4-formylcyclohexylcarbamate (900 mg) in anhydrous tetrahydrofuran (5 ml) was added thereto. The reaction mixture was gradually warmed to 25° C. and stirred overnight. To the reaction mixture was added saturated aqueous ammonium chloride, and the mixture was extracted with ethyl acetate, the organic layer was washed with brine, dried over sodium sulfate, and then the solvent was removed in vacuo. After diethyl ether was added to the residue, the precipitate was filtered off and then the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel chromatography (eluent: gradient from 100% hexane/0% ethyl acetate to 0% hexane/100% ethyl acetate) to give 405 mg of t-butyl cis-4-[(Z)-1-butenyl]cyclohexylcarbamate.

reactant | sodium hexamethyldisilazane | 1.9 M, 2.1 ml | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | n-propyltriphenyl-phosphonium bromide | 1.52 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-butyl cis-4-formylcyclohexylcarbamate | 900 mg | C(=O)[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C12H21NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-butyl cis-4-[(Z)-1-butenyl]cyclohexylcarbamate | 405 mg | C(=C/CC)/[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C15H27NO2
